US09024081B2
A similar experiment to that of example 1 is carried out using this time 2 kg of crude product comprising 42% by weight of glycerol, 14% by weight of water and a large amount of volatile products (methanol, ethanol). The acetone is used in the same molar ratio as is for example 1 and the 2,2-dimethyl-1,3-dioxolane-4-methanol obtained has a purity of 98%.

reactant | glycerol | OCC(O)CO | C3H8O3
reactant | water | O | H2O
reactant | methanol | CO | CH4O
reactant | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 2,2-dimethyl-1,3-dioxolane-4-methanol | CC1(OCC(O1)CO)C | C6H12O3
